US08685977B2
4-[4-Chloro-3-(trifluoromethyl)phenoxy]benzoic acid
Methyl 4-[4-chloro-3-(trifluoromethyl)phenoxy]benzoate (Preparation 1, 2.7 g, 8.34 mmol) was dissolved in methanol (50 mL) followed by addition of a 1M aqueous solution of lithium hydroxide (50 mL, 50 mmol) whereupon a precipitate was observed. The reaction mixture was heated to 50° C. to aid dissolution and the reaction mixture then stirred at 50° C. 18 hours. The reaction mixture was concentrated in vacuo. The resulting residue was dissolved in a 1M aqueous solution of sodium carbonate (−100 mL) and extracted with ethyl acetate (30 mL). The organic phase was concentrated in vacuo to give a yellow solid. The solid was partitioned between tert-butylmethyl ether and a 1M aqueous solution of sodium carbonate. The organic phase was washed sequentially with a 2M aqueous solution of hydrogen chloride and brine, dried over anhydrous magnesium sulphate, filtered and concentrated in vacuo to afford the title compound as an off-white solid (1.44 g, 55%).

reactant | Methyl 4-[4-chloro-3-(trifluoromethyl)phenoxy]benzoate | 8.34 mmol, 2.7 g | ClC1=C(C=C(OC2=CC=C(C(=O)OC)C=C2)C=C1)C(F)(F)F | C15H10ClF3O3
reactant | lithium hydroxide | 50 mmol, 50 mL | [OH-].[Li+]
solvent | methanol | 50 mL | CO | CH4O
product | 4-[4-Chloro-3-(trifluoromethyl)phenoxy]benzoic acid | 1.44 g, 55% | ClC1=C(C=C(OC2=CC=C(C(=O)O)C=C2)C=C1)C(F)(F)F | C14H8ClF3O3
